US04927926
Preparation of 1-cyclopropyl-6-fluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1 g (3.5 mmoles) of 1-cyclopropyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 0.77 g (7.9 mmoles) of 3-hydroxyazetidine hydrochloride, 2.15 g (21.3 mmoles) of triethylamine is heated to 160° C. in 10 ml of dimethyl sulphoxide for 6 hours. The mixture is cooled, diluted with water and acidified with acetic acid. After filtering and recrystallising from dimethylformamide 0.3 g (27%) of 1-cyclopropyl-6-fluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are obtained, melting at 296°-8° C.

reactant | 1-cyclopropyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 3.5 mmoles, 1 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C13H9ClFNO3
reactant | 3-hydroxyazetidine hydrochloride | 7.9 mmoles, 0.77 g | Cl.OC1CNC1
reactant | triethylamine | 21.3 mmoles, 2.15 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-cyclopropyl-6-fluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(C1)O)F)=O)C(=O)O | C16H15FN2O4
